US03931199
A mixture of 10 g of 5-hydroxy-5H-[1]benzopyrano[2,3-b]pyridine, 100 ml of isopropyl alcohol and 10 ml of 20% hydrochloric acid in isopropyl alcohol is refluxed for 3 hours. The reaction mixture is allowed to stand overnight, and then the isopropyl alcohol is removed by distillation under reduced pressure. An aqueous potassium carbonate solution is added to the residue, and the mixture is extracted with chloroform. The chloroform layer is dried, and the chloroform is distilled off. The residue is recrystallized from isopropyl ether or carbon tetrachloride to give 7.5 g of 5H-[1]benzopyrano[2,3-b]pyridine as white crystals melting at 87°-88°C.

reactant | 5-hydroxy-5H-[1]benzopyrano[2,3-b]pyridine | 10 g | OC1C2=C(OC3=NC=CC=C31)C=CC=C2 | C12H9NO2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 5H-[1]benzopyrano[2,3-b]pyridine | 7.5 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC=C1 | C12H9NO
